US08058269B2
The mixture of rac-3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoic acid (60 mg, 0.14 mmol), 1-methyl-piperazine (56 mg, 0.56 mmol) and EDCl (54 mg, 0.28 mmol) in dichlorometahne (2 mL) was stirred at room temperature for overnight. The reaction mixture was purified by preparative HPLC to give rac-6-chloro-3-(3-chloro-benzyl)-3-[3-(4-methyl-piperazine-1-carbonyl)-phenylamino]-1,3-dihydro-indol-2-one as a powder. 1H NMR (CDCl3, 400 MHz): δ 7.21-6.74 (m, 9H), 6.49 (d, 1H), 6.17 (s, 1H), 4.70 (s, 1H), 3.80-3.45 (br, 8H), 3.28-3.15 (q, 2H), 2.66 (s, 3H). MS: [M+H]+=509

reactant | rac-3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoic acid | 0.14 mmol, 60 mg | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)NC=1C=C(C(=O)O)C=CC1 | C22H16Cl2N2O3
reactant | 1-methyl-piperazine | 0.56 mmol, 56 mg | CN1CCNCC1 | C5H12N2
reactant | EDCl | 0.28 mmol, 54 mg | CCN=C=NCCCN(C)C.Cl
product | rac-6-chloro-3-(3-chloro-benzyl)-3-[3-(4-methyl-piperazine-1-carbonyl)-phenylamino]-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(NC1=CC(=CC=C1)C(=O)N1CCN(CC1)C)CC1=CC(=CC=C1)Cl | C27H26Cl2N4O2
